US04043993
Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serine methyl ester
Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serine resin, 20 g., (24 mmol) is converted to the methyl ester by the procedure of Example 1 yielding the above named product in the form of a glass [α]D23 -68° (c. 1.05 in methanol). The above resin is prepared according to the procedure of Example 1using Nα -t-butoxycarbonyl-O-benzyl-L-serine resin which is successively reacted with 1) 8.9 g. (24 mmol) of Nα -t-butoxycarbonyl-O-benzyl-L-tyrosine and 5 g. (24.2 mmol) of dicyclohexylcarbodiimide, 2) 5.0 g. (23.2 mmol) of Nα -t-butoxycarbonyl-L-proline and 5.0 g, of dicyclohexylcarbodiimide, 3) 5 g. (23.2 mmol) of Nα -t-butoxycarbonyl-L-proline and 5.0 g. of dicyclohexylcarbodiimide and 4) 7.30 g. (24 mmol) of Nα -t-butoxycarbonyl-L-tryptophane and 5 g. (23.2 mmol) dicyclohexylcarbodiimide.

reactant | Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=C(C=C3)OCC3=CC=CC=C3)C(=O)N[C@@H](COCC3=CC=CC=C3)C(=O)O)CCC2)CCC1 | C52H60N6O10
reactant | Nα -t-butoxycarbonyl-O-benzyl-L-serine | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | Nα -t-butoxycarbonyl-O-benzyl-L-tyrosine | 24 mmol | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C21H25NO5
reactant | dicyclohexylcarbodiimide | 24.2 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Nα -t-butoxycarbonyl-L-tryptophane | 24 mmol | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
reactant | dicyclohexylcarbodiimide | 23.2 mmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methanol | CO | CH4O
product | Nα -t-Butoxycarbonyl-L-tryptophyl-L-prolyl-L-prolyl-O-benzyl-L-tyrosyl-O-benzyl-L-serine methyl ester | COC([C@@H](NC([C@@H](NC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CC1=CNC2=CC=CC=C12)=O)=O)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O)COCC1=CC=CC=C1)=O | C53H62N6O10
